US04049714
Reaction of equimolar amounts of phosphorus oxychloride, 3-(p-anisidinomethyl)-5-bromoindole, 2-pyrrolidinone and triethylamine in 1,2-dichloroethane according to the procedure of Example 35 provides 5-bromo-3-[(N-[1-pyrrolin-2-yl]-p-anisidino)methyl]indole. Acidification of the free base with ethanolic hydrogen chloride provides 5-bromo-3-[(N-[1-pyrrolin-2-yl]-p-anisidino)methyl]indole hydrochloride, m.p. 205.5°-207.5° C. (corr.).

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(p-anisidinomethyl)-5-bromoindole | COC1=CC=C(C=C1)NCC1=CNC2=CC=C(C=C12)Br | C16H15BrN2O
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-bromo-3-[(N-[1-pyrrolin-2-yl]-p-anisidino)methyl]indole | BrC=1C=C2C(=CNC2=CC1)CN(C1=CC=C(OC)C=C1)C1=NCCC1 | C20H20BrN3O
